US06686352B2
a) 2-(1,1-Dimethylethyl)-5,7-dihydro-6H-pyrimido[5,4-d][1]benzazepine-6-one
Analogous to Scheme 1, from 4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione and 2,2-dimethylpropionamidine hydrochloride. Yield: 90%.

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=CC=C2)=O | C13H14N2O2
reactant | 2,2-dimethylpropionamidine hydrochloride | Cl.CC(C(=N)N)(C)C
product | 2-(1,1-Dimethylethyl)-5,7-dihydro-6H-pyrimido[5,4-d][1]benzazepine-6-one | Yield: 90% | CC(C)(C)C=1N=CC=2CC(NC3=C(C2N1)C=CC=C3)=O | C16H17N3O
